US08017637B2
1.57 g (7.17 mmol; 1.5 equivalent) of 3-bromopropylamine hydrobromide and 1.02 ml (7.17 mmol; 1.5 equivalent) of triethylamine are added to 1 g (4.78 mmol) of 5-methoxy-2-methyl-1,3-benzothiazole-4,7-dione in solution in 100 ml of methanol. The reaction mixture is maintained under stirring for 2 hours at 60° C., then the solvent is evaporated off under reduced pressure and the residue is purified by chromatography on a silica column (eluent: dichloromethane/methanol: 97/3). The 5-[(3-bromopropyl)amino]-2-methyl-1,3-benzothiazole-4,7-dione is obtained in the form of a red oil.

reactant | 3-bromopropylamine hydrobromide | 7.17 mmol, 1.57 g, 1.5 equivalent | Br.BrCCCN
reactant | triethylamine | 7.17 mmol, 1.02 ml, 1.5 equivalent | C(C)N(CC)CC | C6H15N
reactant | 5-methoxy-2-methyl-1,3-benzothiazole-4,7-dione | 4.78 mmol, 1 g | COC1=CC(C2=C(N=C(S2)C)C1=O)=O | C9H7NO3S
solvent | methanol | 100 ml | CO | CH4O
product | 5-[(3-bromopropyl)amino]-2-methyl-1,3-benzothiazole-4,7-dione | BrCCCNC1=CC(C2=C(N=C(S2)C)C1=O)=O | C11H11BrN2O2S
